US07851473B2
(2) N-1H-Indazol-3-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixed solution of bis(2,2,2-trichloroethyl) 1H-indazol-3-ylimidodicarbonate (295 mg, 0.61 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (300 mg, 1.22 mmol) and diisopropylethylamine (0.106 ml, 0.610 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 80° C. for 5 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (100% ethyl acetate, followed by ethyl acetate:methanol=1:1) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 30.2 mg (12.2%) of the desired product as a solid.

reactant | bis(2,2,2-trichloroethyl) 1H-indazol-3-ylimidodicarbonate | 0.61 mmol, 295 mg | N1N=C(C2=CC=CC=C12)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C13H9Cl6N3O4
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 1.22 mmol, 300 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.610 mmol, 0.106 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-1H-Indazol-3-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 30.2 mg, 12.2% | N1N=C(C2=CC=CC=C12)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C20H19N7OS
